US06617330B2
(2-Butyl-6-chloro-3-propyl-3H-thieno [2,3-d]pyrimidine-4-ylidene)methylamine
In a sulfonation flask, 0.92 g (3.5 mmol) (2-butyl-3-propyl-3H-thieno [2,3-d] pyrimidine-4-ylidene)methylamine are dissolved in 10 ml of absolute pyridine and heated up to 70° C. Then 0.71 g (5.3 mmol) N-chlorosuccinimide are added and the resulting mixture is heated for 1 h at 70° C. After completion of the reaction, pyridine is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed several times with water and after drying of the organic phase with Na2SO4, the solvent is removed in vacuum. The raw material is purified by column chromatography over silica gel (eluant: hexane/THF 2:1). Yield: 0.95 g of (2-butyl-6-chloro-3-propyl-3H-thieno [2,3-d]pyrimidin-4-ylidene) methylamine in the form of a brown oil (1H-NMR-data see table 5).

reactant | (2-butyl-3-propyl-3H-thieno [2,3-d] pyrimidine-4-ylidene)methylamine | 3.5 mmol, 0.92 g | C(CCC)C=1N(C(C2=C(N1)SC=C2)=CN)CCC | C14H21N3S
reactant | N-chlorosuccinimide | 5.3 mmol, 0.71 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (2-Butyl-6-chloro-3-propyl-3H-thieno [2,3-d]pyrimidine-4-ylidene)methylamine | C(CCC)C=1N(C(C2=C(N1)SC(=C2)Cl)=CN)CCC | C14H20ClN3S
